### PR TITLE
[Merged by Bors] - feat: Add LinearOrderedCommMonoidWithZero and lemmas for unitInterval

### PR DESCRIPTION
**Pull request by PhoenixIra**
Co-authored-by: Jireh Loreaux <loreaujy@gmail.com>

---
This PR adds various lemmas about the `unitInterval` that might be of interest. 

It would be nice to also have lemmas similar to [Mathlib/Algebra/Order/GroupWithZero/Unbundled](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/GroupWithZero/Unbundled.html), but instantiation `unitInterval` as `PosMulMono` and similar feels weird as unitInterval has no nonnegative values. Maybe there is a clever way to generalize these lemmas? Or we can provide a similar API for `OrderedCommMonoid`? Unfortunately, that would not help with strictness and reflection lemmas. All of these feel not fitting for this PR, however.

This [zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/eq.20one.20of.20le.20mul.20in.20the.20unit) is related.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UnitInterval.lean [hunk 1]
```diff
@@ -133,6 +141,62 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
 theorem half_le_symm_iff (t : I) : 1 / 2 ≤ (σ t : ℝ) ↔ (t : ℝ) ≤ 1 / 2 := by
   rw [coe_symm_eq, le_sub_iff_add_le, add_comm, ← le_sub_iff_add_le, sub_half]
 
+@[simp]
+lemma eq_zero_iff_sym_eq_one (i : I) : σ i = 1 ↔ i = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UnitInterval.lean:145]: Why are these `sym` rather than `symm`?

File: Mathlib/Topology/UnitInterval.lean [hunk 2]
```diff
@@ -133,6 +141,62 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
...
+lemma eq_one_iff_sym_eq_zero (i : I) : σ i = 0 ↔ i = 1 := by
+  apply Iff.intro
+  · intro h
+    rw [← unitInterval.symm_one] at h
+    exact symm_bijective.injective h
+  · intro h
+    rw [h, symm_one]
+
+theorem le_symm_if_le_symm (i j : I) : i ≤ σ j → j ≤ σ i := by
+  intro h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UnitInterval.lean:163]:
```suggestion
theorem le_symm_if_le_symm (i j : I) (h : i ≤ σ j) : j ≤ σ i := by
```
Though it seems like i and j are determined by h, so should be implicit as well

Also below

File: Mathlib/Topology/UnitInterval.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UnitInterval.lean:145]: I think we prefer the `i` to be implicit when the conclusion is an iff

File: Mathlib/Topology/UnitInterval.lean [hunk 3]
```diff
@@ -160,6 +224,19 @@ theorem nonneg' {t : I} : 0 ≤ t :=
 theorem le_one' {t : I} : t ≤ 1 :=
   t.2.2
 
+@[simp]
+lemma ne_zero_iff_pos {x : I} : x ≠ 0 ↔ 0 < x := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UnitInterval.lean:228]: Hmm, there's some `pos_iff_ne_zero` lemmas already; you might match those. Does this need to be simp, though? lt doesn't obviously seem simpler than ne

File: Mathlib/Topology/UnitInterval.lean [hunk 4]
```diff
@@ -172,6 +249,25 @@ theorem mul_pos_mem_iff {a t : ℝ} (ha : 0 < a) : a * t ∈ I ↔ t ∈ Set.Icc
...
+  mul_le_mul_left i j h_ij k := by
+    simp only [← Subtype.coe_le_coe, coe_mul]
+    apply mul_le_mul (by rfl) ?_ (nonneg i) (nonneg k)
+    simp [h_ij]
+  le_total := LinearOrder.le_total
+  decidableLE := LinearOrder.decidableLE
+  min_def := LinearOrder.min_def
+  max_def := LinearOrder.max_def
+  compare_eq_compareOfLessAndEq i j := by
+    simp [compare, compareOfLessAndEq]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Topology/UnitInterval.lean:265]: Replace by the output of `simp? [compare, compareOfLessAndEq]` please

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks, some small comments.

File: Mathlib/Topology/UnitInterval.lean (hunk 3 above)
Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean]: I think there is argument why lt is more useful, but I won't fight for that. Changed it to `pos_iff_ne_zero` and removed the simp attribute.

File: Mathlib/Topology/UnitInterval.lean [hunk 5]
```diff
@@ -67,12 +67,20 @@ instance : BoundedOrder I := Set.Icc.boundedOrder zero_le_one
...
 
+@[norm_cast]
 theorem coe_ne_one {x : I} : (x : ℝ) ≠ 1 ↔ x ≠ 1 :=
   not_iff_not.mpr coe_eq_one
 
+@[norm_cast]
+lemma coe_pos {x : I} : (0 : ℝ) < x ↔ 0 < x := Iff.rfl
+
+@[norm_cast]
+lemma coe_lt_one {x : I} : (x : ℝ) < 1 ↔ x < 1 := Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:82]:
```suggestion
@[simp, norm_cast] lemma coe_pos {x : I} : (0 : ℝ) < x ↔ 0 < x := Iff.rfl
@[simp, norm_cast] lemma coe_lt_one {x : I} : (x : ℝ) < 1 ↔ x < 1 := Iff.rfl
```
Same above

File: Mathlib/Topology/UnitInterval.lean [hunk 6]
```diff
@@ -133,6 +141,58 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
 theorem half_le_symm_iff (t : I) : 1 / 2 ≤ (σ t : ℝ) ↔ (t : ℝ) ≤ 1 / 2 := by
   rw [coe_symm_eq, le_sub_iff_add_le, add_comm, ← le_sub_iff_add_le, sub_half]
 
+@[simp]
+lemma symm_eq_one_iff_eq_zero {i : I} : σ i = 1 ↔ i = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:145]:
```suggestion
lemma symm_eq_one {i : I} : σ i = 1 ↔ i = 0 := by
```
The RHS is implied

File: Mathlib/Topology/UnitInterval.lean [hunk 7]
```diff
@@ -133,6 +141,58 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
...
+  apply Iff.intro
+  · intro h
+    rw [← unitInterval.symm_zero] at h
+    exact symm_bijective.injective h
+  · intro h
+    rw [h, symm_zero]
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:151]:
```suggestion
  rw [← symm_zero, symm_bijective.injective.eq_iff]
```
and please make `symm_bijective.injective.eq_iff` a lemma called `symm_inj`

File: Mathlib/Topology/UnitInterval.lean [hunk 8]
```diff
@@ -133,6 +141,58 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
...
+  · intro h
+    rw [h, symm_one]
+
+theorem le_symm_of_le_symm {i j : I} (h : i ≤ σ j) : j ≤ σ i := by
+  rw [Subtype.mk_le_mk, coe_symm_eq] at h ⊢
+  apply le_sub_left_of_add_le
+  rw [add_comm]
+  exact add_le_of_le_sub_left h
+
+theorem le_symm_iff_le_symm {i j : I} : i ≤ σ j ↔ j ≤ σ i :=
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:168]:
```suggestion
theorem le_symm_comm {i j : I} : i ≤ σ j ↔ j ≤ σ i :=
```

File: Mathlib/Topology/UnitInterval.lean [hunk 9]
```diff
@@ -133,6 +141,58 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
...
+    rw [← unitInterval.symm_one] at h
+    exact symm_bijective.injective h
+  · intro h
+    rw [h, symm_one]
+
+theorem le_symm_of_le_symm {i j : I} (h : i ≤ σ j) : j ≤ σ i := by
+  rw [Subtype.mk_le_mk, coe_symm_eq] at h ⊢
+  apply le_sub_left_of_add_le
+  rw [add_comm]
+  exact add_le_of_le_sub_left h
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:166]: Can you first show `σ j ≤ σ i ↔ i ≤ j` and `σ j < σ i ↔ i < j`?

File: Mathlib/Topology/UnitInterval.lean (hunk 5 above)
Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean]: If you mean with 'same above' the theorems `coe_ne_zero` and `coe_ne_one` then those are according to the linter not in simp-normal form. Or am I misunderstanding something?

File: Mathlib/Topology/UnitInterval.lean (hunk 6 above)
Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean]: I changed it to `symm_eq_one_iff`. Are you fine with that as well?

Comment (YaelDillies) [reply Mathlib/Topology/UnitInterval.lean]: I would rather remove the `_iff`. It's clearly implied

Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean]: Alright, I removed it.

File: Mathlib/Topology/UnitInterval.lean (hunk 5 above)
Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean]: `@unitInterval.coe_ne_zero` simp can prove this: `by simp only [@ne_eq, @Set.Icc.coe_eq_zero]`
`@unitInterval.coe_ne_one` simp can prove this: `by simp only [@ne_eq, @Set.Icc.coe_eq_one]`

File: Mathlib/Topology/UnitInterval.lean [hunk 10]
```diff
@@ -67,19 +67,17 @@ instance : BoundedOrder I := Set.Icc.boundedOrder zero_le_one
 
 lemma univ_eq_Icc : (univ : Set I) = Icc (0 : I) (1 : I) := Icc_bot_top.symm
 
-theorem coe_ne_zero {x : I} : (x : ℝ) ≠ 0 ↔ x ≠ 0 :=
-  not_iff_not.mpr coe_eq_zero
-
-theorem coe_ne_one {x : I} : (x : ℝ) ≠ 1 ↔ x ≠ 1 :=
-  not_iff_not.mpr coe_eq_one
+@[norm_cast] theorem coe_ne_zero {x : I} : (x : ℝ) ≠ 0 ↔ x ≠ 0 := not_iff_not.mpr coe_eq_zero
+@[norm_cast] theorem coe_ne_one {x : I} : (x : ℝ) ≠ 1 ↔ x ≠ 1 := not_iff_not.mpr coe_eq_one
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:71]:
```suggestion
@[norm_cast] theorem coe_ne_zero {x : I} : (x : ℝ) ≠ 0 ↔ x ≠ 0 := coe_eq_zero.not
@[norm_cast] theorem coe_ne_one {x : I} : (x : ℝ) ≠ 1 ↔ x ≠ 1 := coe_eq_one.not
```

File: Mathlib/Topology/UnitInterval.lean [hunk 11]
```diff
@@ -130,9 +128,40 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
...
+@[simp]
+lemma symm_eq_one {i : I} : σ i = 1 ↔ i = 0 := by
+  rw [← symm_zero, symm_inj]
+
+@[simp]
+lemma symm_eq_zero {i : I} : σ i = 0 ↔ i = 1 := by
+  rw [← symm_one, symm_inj]
+
+@[simp]
+theorem symm_le_symm_iff {i j : I} : σ i ≤ σ j ↔ j ≤ i := by
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:146]:
```suggestion
theorem symm_le_symm {i j : I} : σ i ≤ σ j ↔ j ≤ i := by
```

File: Mathlib/Topology/UnitInterval.lean [hunk 12]
```diff
@@ -130,9 +128,40 @@ theorem strictAnti_symm : StrictAnti σ := fun _ _ h ↦ sub_lt_sub_left (α :=
...
+  simp only [symm, Subtype.mk_le_mk, sub_le_sub_iff, add_le_add_iff_left, Subtype.coe_le_coe]
+
+theorem le_symm_comm {i j : I} : i ≤ σ j ↔ j ≤ σ i := by
+  rw [← symm_le_symm_iff, symm_symm]
+
+theorem symm_le_comm {i j : I} : σ i ≤ j ↔ σ j ≤ i := by
+  rw [← symm_le_symm_iff, symm_symm]
+
+@[simp]
+theorem symm_lt_symm_iff {i j : I} : σ i < σ j ↔ j < i := by
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:156]:
```suggestion
theorem symm_lt_symm {i j : I} : σ i < σ j ↔ j < i := by
```

File: Mathlib/Topology/UnitInterval.lean [hunk 13]
```diff
@@ -160,6 +189,18 @@ theorem nonneg' {t : I} : 0 ≤ t :=
 theorem le_one' {t : I} : t ≤ 1 :=
   t.2.2
 
+lemma pos_iff_ne_zero {x : I} : 0 < x ↔ x ≠ 0 := by
+  rw [← coe_ne_zero, ← coe_pos, lt_iff_le_and_ne, and_iff_right (nonneg x), ne_comm]
+
+lemma lt_one_iff_ne {x : I} : x < 1 ↔ x ≠ 1 := by
+  rw [← coe_lt_one, ← coe_ne_one, lt_iff_le_and_ne, and_iff_right (le_one x)]
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:196]:
```suggestion
lemma lt_one_iff_ne_ {x : I} : x < 1 ↔ x ≠ 1 := lt_top_iff_ne_top
```

File: Mathlib/Topology/UnitInterval.lean [hunk 14]
```diff
@@ -172,6 +213,25 @@ theorem mul_pos_mem_iff {a t : ℝ} (ha : 0 < a) : a * t ∈ I ↔ t ∈ Set.Icc
...
+  le_total := LinearOrder.le_total
+  decidableLE := LinearOrder.decidableLE
+  min_def := LinearOrder.min_def
+  max_def := LinearOrder.max_def
+  compare_eq_compareOfLessAndEq i j := by
+    simp only [compare, compareOfLessAndEq, Subtype.coe_lt_coe]
+    split_ifs
+    all_goals try rfl
+    case pos h_ne h_eq => exact h_ne <| Subtype.coe_inj.mpr h_eq
+    case neg h_eq h_ne => exact h_ne <| Subtype.coe_inj.mp h_eq
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:233]: You should be able to just not specify this

File: Mathlib/Topology/UnitInterval.lean (hunk 13 above)
Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean]: I assume the extra underscore is a typo?

File: Mathlib/Topology/UnitInterval.lean (hunk 14 above)
Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean:232]: I should, and I assumed this as well.
However, leaving `compare_eq_compareOfLessAndEq` away leaves me with the unsolved case `mk.mk` with goal `compare ⟨val✝¹, property✝¹⟩ ⟨val✝, property✝⟩ = compareOfLessAndEq ⟨val✝¹, property✝¹⟩ ⟨val✝, property✝⟩`.

File: Mathlib/Topology/UnitInterval.lean [hunk 15]
```diff
@@ -160,6 +189,17 @@ theorem nonneg' {t : I} : 0 ≤ t :=
 theorem le_one' {t : I} : t ≤ 1 :=
   t.2.2
 
+lemma pos_iff_ne_zero {x : I} : 0 < x ↔ x ≠ 0 := by
+  rw [← coe_ne_zero, ← coe_pos, lt_iff_le_and_ne, and_iff_right (nonneg x), ne_comm]
+
```
Comment (YaelDillies) [inline Mathlib/Topology/UnitInterval.lean:194]:
```suggestion
protected lemma pos_iff_ne_zero {x : I} : 0 < x ↔ x ≠ 0 := bot_lt_iff_ne_bot
```

File: Mathlib/Topology/UnitInterval.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Topology/UnitInterval.lean]: Whoops yes

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

File: Mathlib/Topology/UnitInterval.lean [hunk 16]
```diff
@@ -172,6 +212,25 @@ theorem mul_pos_mem_iff {a t : ℝ} (ha : 0 < a) : a * t ∈ I ↔ t ∈ Set.Icc
 theorem two_mul_sub_one_mem_iff {t : ℝ} : 2 * t - 1 ∈ I ↔ t ∈ Set.Icc (1 / 2 : ℝ) 1 := by
   constructor <;> rintro ⟨h₁, h₂⟩ <;> constructor <;> linarith
 
+instance : LinearOrderedCommMonoidWithZero I where
```
Comment (urkud) [inline Mathlib/Topology/UnitInterval.lean:215]: Please reuse the existing `LinearOrder` instance. Something like
```
  __ := inferInstanceAs (LinearOrder I)
```
should work. Otherwise we risk introducing two incompatible `LinearOrder I` structures.

Comment (PhoenixIra) [reply Mathlib/Topology/UnitInterval.lean:215]: Thanks, that worked!

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
